US04258045
Step C: Preparation of 2,4-Diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride
A solution of 55 g (0.15 mole) of 2,4-diamino-5-(3-benzyloxy-4-methoxybenzyl)pyrimidine from the preceding step in 2500 ml of methanol and 20 ml of concentrated hydrochloric acid is hydrogenated at about 2.5 to 3.0 atm. in the presence of 4 g of 10% Palladium-on-charcoal catalyst. After the uptake of hydrogen has stopped (3.5 hr.) the catalyst is filtered and the filtrate concentrated in vacuo to 250 ml. The crystalline product weighs 41.5 g (90%), m.p. 230°-32°.

reactant | 2,4-diamino-5-(3-benzyloxy-4-methoxybenzyl)pyrimidine | 0.15 mole, 55 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C19H20N4O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2500 ml | CO | CH4O
catalyst | Palladium-on-charcoal | 4 g | [Pd] | Pd
product | 2,4-Diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride | Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)O | InChI=1S/C12H14N4O2.ClH/c1-18-10-3-2-7(5-9(10)17)4-8-6-15-12(14)16-11(8)13;/h2-3,5-6,17H,4H2,1H3,(H4,13,14,15,16);1H
